US08466191B2
methyl 3-amino-3-(4-benzyloxy phenyl)propionate
The title compound was prepared following the method for preparing Intermediate 6 except that 3-amino-3-(3,4-dimethoxy-phenyl)propionic acid was substituted with 3-amino-3-(4-benzyloxy phenyl)propionic acid.

reactant | 3-amino-3-(3,4-dimethoxy-phenyl)propionic acid | NC(CC(=O)O)C1=CC(=C(C=C1)OC)OC | C11H15NO4
reactant | 3-amino-3-(4-benzyloxy phenyl)propionic acid | NC(CC(=O)O)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C16H17NO3
product | methyl 3-amino-3-(4-benzyloxy phenyl)propionate | NC(CC(=O)OC)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C17H19NO3
